* C:\Repositories\electricidad_I\python\RLC\RC_resp_comp_Laplace.asc
V1 N001 0 PULSE(10 20 1 1n 1n 10 10 1)
R1 N001 N002 1
C1 N002 0 1
.tran 0 8 0 1e-5
.backanno
.end
